US04927838
(E)-3-[6-Methoxy-1-(4-methoxyphenyl)-2-naphthalenyl]-2-propenoic acid 4-nitrophenyl ester
As in Example 113, (E)-3-[6-methoxy-1-(4-methoxyphenyl)-2-naphthalenyl]-2-propenoic acid (1.4 g) was reacted with 4-nitrophenol (0.64 g) in dichloromethane (25 mL) in the presence of 1,3-dicyclohexylcarbodiimide (0.87 g) overnight at room temperature to give, after the normal work up and crystallization of the crude product from 2-propanol, 1.6 g of (E)-3-[6-methoxy-1-(4-methoxyphenyl)-2-naphthalenyl]-2-propenoic acid 4-nitrophenyl ester, mp 160°-161° C. Anal. Calcd for C27H21NO6 : C, 71.20; H, 4.65; N, 3.08 Found: C, 70.87; H, 4.89; N, 3.06

reactant | (E)-3-[6-methoxy-1-(4-methoxyphenyl)-2-naphthalenyl]-2-propenoic acid | 1.4 g | COC=1C=C2C=CC(=C(C2=CC1)C1=CC=C(C=C1)OC)/C=C/C(=O)O | C21H18O4
reactant | 4-nitrophenol | 0.64 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 0.87 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | (E)-3-[6-Methoxy-1-(4-methoxyphenyl)-2-naphthalenyl]-2-propenoic acid 4-nitrophenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C1=C(C2=CC=C(C=C2C=C1)OC)C1=CC=C(C=C1)OC)=O | C27H21NO6
